

***********************************************************
* CDL produced by pvsBuildNetlist on Apr 14 15:38:06 2026 *
***********************************************************


*pvsViewList = auCdl schematic
*pvsStopList = ("auCdl")
*pvsSimName  = auCdl



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt FNC_DET CLK D Q gnd vdd
*PVSCELL netlisted from DETFF FNC_DET schematic
  MNM1 B D net4 gnd g45n1svt m=1 l=45n w=300n
  MNM10 net9 A net4 gnd g45n1svt m=1 l=45n w=300n
  MNM11 A D net21 gnd g45n1svt m=1 l=45n w=300n
  MNM12 X B net23 gnd g45n1svt m=1 l=45n w=300n
  MNM13 net23 A gnd gnd g45n1svt m=1 l=45n w=300n
  MNM14 X A net30 gnd g45n1svt m=1 l=45n w=300n
  MNM15 net30 B gnd gnd g45n1svt m=1 l=45n w=300n
  MNM16 net23 QB net30 gnd g45n1svt m=1 l=45n w=300n
  MNM17 QB X gnd gnd g45n1svt m=1 l=45n w=300n
  MNM18 Q QB gnd gnd g45n1svt m=1 l=45n w=300n
  MNM19 CKB CLK gnd gnd g45n1svt m=1 l=45n w=300n
  MNM2 net4 CKB gnd gnd g45n1svt m=1 l=45n w=300n
  MNM20 CKI CKB gnd gnd g45n1svt m=1 l=45n w=300n
  MNM5 net21 CKI gnd gnd g45n1svt m=1 l=45n w=300n
  MNM7 net37 B net21 gnd g45n1svt m=1 l=45n w=300n
  MNM8 A X net37 gnd g45n1svt m=1 l=45n w=300n
  MNM9 B X net9 gnd g45n1svt m=1 l=45n w=300n
  MPM0 B D net25 vdd g45p1svt m=1 l=45n w=600n
  MPM10 net10 A net25 vdd g45p1svt m=1 l=45n w=600n
  MPM11 B X net10 vdd g45p1svt m=1 l=45n w=600n
  MPM14 A D net1 vdd g45p1svt m=1 l=45n w=600n
  MPM15 net5 A vdd vdd g45p1svt m=1 l=45n w=600n
  MPM16 X B net5 vdd g45p1svt m=1 l=45n w=600n
  MPM17 net13 B vdd vdd g45p1svt m=1 l=45n w=600n
  MPM18 X A net13 vdd g45p1svt m=1 l=45n w=600n
  MPM19 net5 QB net13 vdd g45p1svt m=1 l=45n w=600n
  MPM2 net25 CKB vdd vdd g45p1svt m=1 l=45n w=600n
  MPM20 QB X vdd vdd g45p1svt m=1 l=45n w=600n
  MPM21 Q QB vdd vdd g45p1svt m=1 l=45n w=600n
  MPM22 CKB CLK vdd vdd g45p1svt m=1 l=45n w=600n
  MPM24 CKI CKB vdd vdd g45p1svt m=1 l=45n w=600n
  MPM5 A X net31 vdd g45p1svt m=1 l=45n w=600n
  MPM7 net1 CKI vdd vdd g45p1svt m=1 l=45n w=600n
  MPM8 net31 B net1 vdd g45p1svt m=1 l=45n w=600n
.ends FNC_DET


***********************************************************
*             Completed at Apr 14 15:38:06 2026           *
***********************************************************
